US08541411B2
Preparation of 6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid
A suspension of methyl 6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate, prepared as described in Example 48 (1.28 g, 2.73 mmol) in Methanol (18 mL) and 1 M sodium hydroxide (15 mL, 15.00 mmol) was stirred overnight at rt, then at 50° C. for 5 h. The reaction was cooled to room temperature and acidified (pH 4) by the addition of 1 N HCl. The precipitate formed was collected by filtration, washed with water and dried to give the desired product (1.13 g, 2.233 mmol, 82% yield). A portion of this material (132 mg) was purified by reverse phase-HPLC (15-95% AcCN in water plus 0.1% TFA). The fractions containing product were combined and the volume was reduced to about ⅓ of the original. The precipitate formed was collected, washed with water and dried in a vacuum oven (50° C., overnight) to give the desired product (88.4 mg, 0.194 mmol, 7.12% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.11 (br. s., 1H), 8.26 (d, J=8.59 Hz, 1H), 8.01 (d, J=7.33 Hz, 1H), 7.85 (d, J=8.34 Hz, 1H), 7.57-7.73 (m, 3H), 7.35 (d, J=2.53 Hz, 1H), 7.29-7.34 (m, 1H), 6.24 (d, J=7.07 Hz, 1H), 6.22 (s, 2H), 3.64-3.72 (m, 4H), 3.06-3.18 (m, 4H). MS (ES+) m/e 456 [M+H]+.

reactant | methyl 6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate | N1(CCOCC1)C=1C=C(C2=C(N(C(=N2)C(F)(F)F)CC2=CC=CC3=CC=CC=C23)C1)C(=O)OC | C25H22F3N3O3
reactant | sodium hydroxide | 15.00 mmol, 1 M, 15 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | Methanol | 18 mL | CO | CH4O
product | 6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid | 2.233 mmol, 1.13 g, 82% yield | N1(CCOCC1)C=1C=C(C2=C(N(C(=N2)C(F)(F)F)CC2=CC=CC3=CC=CC=C23)C1)C(=O)O | C24H20F3N3O3
